US08669234B2
3-Amino-2-tert-butoxycarbonylamino-propionic acid (5.0 g, 24.5 mmol) was suspended in methanol (100 mL) and benzaldehyde (5.2 g, 49 mmol) was added, followed by triethylamine (TEA, 10.2 mL, 73.5 mmol). The reaction mixture was stirred at ambient temperature for 90 minutes and cooled to 0° C. Solid sodium borohydride (2.78 g, 73.5 mmol) was added in small portions and the reaction was stirred for additional 60 minutes after addition was complete. All volatiles were removed in vacuo and the crude was dissolved in NaOHaq (0.1 M, 100 mL). The solution was washed with diethyl ether and acidified with HCl aq. The mixture was extracted with chloroform. The organic extracts were washed with brine and dried over sodium sulfate. Filtration and evaporation of solvents in vacuo yielded crude semi-solid (9.0 g). The crude material was dissolved in methanol (40 mL) and toluene (20 mL) and the solution was cooled to 0° C. Trimethysilyl diazomethane solution (2M, in hexanes) was added until the yellow color persisted (˜25 mL). The reaction mixture was stirred for additional 60 minutes at room temperature. The volatiles were removed in vacuo and the crude product was purified via silica gel chromatography (eluent: EtOAc/hexanes) to yield the pure product 3-Benzylamino-2-tert-butoxycarbonylamino-propionic acid methyl ester (4.09 g): LCMS-ESI+: calc'd for C16H24N2O4: 308.3 (M+). Found: 309.2 (M+H+).

reactant | 3-Amino-2-tert-butoxycarbonylamino-propionic acid | 24.5 mmol, 5.0 g | NCC(C(=O)O)NC(=O)OC(C)(C)C | C8H16N2O4
reactant | benzaldehyde | 49 mmol, 5.2 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | triethylamine | 73.5 mmol, 10.2 mL | C(C)N(CC)CC | C6H15N
reactant | sodium borohydride | 73.5 mmol, 2.78 g | [BH4-].[Na+]
reactant | Trimethysilyl diazomethane | 2M | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | methanol | 100 mL | CO | CH4O
solvent | methanol | 40 mL | CO | CH4O
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 3-Benzylamino-2-tert-butoxycarbonylamino-propionic acid methyl ester | 4.09 g | COC(C(CNCC1=CC=CC=C1)NC(=O)OC(C)(C)C)=O | C16H24N2O4
